US09227951B2
To a solution of N-((1H-pyrrol-2-yl)methylene)-N-methylmethanaminium chloride (45.0 g, 0.279 mol), aluminum trichloride (83.7 g, 0.63 mol) in DCE (90 mL) under nitrogen was added 2,2,2-trichloroacetyl chloride (32.4 mL, 0.093 mol). The mixture was heated to reflux for 4 h. After cooled to rt, MeOH (100 mL) was added followed by sodium methoxide solution [prepared with sodium (45.0 g, 1.98 mol) and MeOH (180 mL)]. The resulting mixture was then stirred at rt for 2 h. The solvent was then removed and the resulting residue was dissolved in water (100 mL), neutralized with 1 N HCl, and extracted with EtOAc (3×400 mL). The combined organic phases were washed with brine, dried, and concentrated to give methyl 5-formyl-1H-pyrrole-3-carboxylate (30.0 g, 60%). 1H NMR (DMSO-d6, 400 MHz) δ 12.62 (s, 1H), 9.48 (s, 1H), 7.66 (s, 1H), 7.30 (s, 1H), 3.67 (s, 3H).

reactant | N-((1H-pyrrol-2-yl)methylene)-N-methylmethanaminium chloride | 0.279 mol, 45.0 g | [Cl-].N1C(=CC=C1)C=[N+](C)C
reactant | aluminum trichloride | 0.63 mol, 83.7 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 2,2,2-trichloroacetyl chloride | 0.093 mol, 32.4 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium methoxide | 1.98 mol, 180 mL, 45.0 g | C[O-].[Na+]
reactant | MeOH | 100 mL | CO | CH4O
solvent | DCE | 90 mL | ClCCCl | C2H4Cl2
product | methyl 5-formyl-1H-pyrrole-3-carboxylate | 30.0 g, 60% | C(=O)C1=CC(=CN1)C(=O)OC | C7H7NO3
